US09034866B2
Synthesis of (±)-2-(4-methylpyridin-2-yl)but-3-yn-2-ol
This compound was prepared according to a procedure similar to that described in Procedure C. Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-bromo-4-methylpyridine (8.5 g, 49.41 mmol, 1.00 equiv) in tetrahydrofuran (110 mL). This was followed by the addition of n-BuLi (22 mL, 1.20 equiv) dropwise with stirring at −78° C. The resulting solution was stirred for 30 min at −78° C. To this was added 4-(trimethylsilyl)but-3-yn-2-one (7.6 g, 54.19 mmol, 1.10 equiv) dropwise with stirring at −78° C. The resulting solution was warmed slowly to 0° C. and stirred for 10 min at this temperature. The reaction was then quenched by the addition of 10 mL of sat. aq. ammonium chloride. The resulting solution was extracted with 2×40 mL of ethyl acetate and the organic layers combined and dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with petroleum ether:ethyl acetate (5:1). This resulted in 6.5 g (56%) of 2-(4-methylpyridin-2-yl)-4-(trimethylsilyl)but-3-yn-2-ol as colourless oil. Into a 250-mL round-bottom flask, was placed a suspension of 2-(4-methylpyridin-2-yl)-4-(trimethylsilyl)but-3-yn-2-ol (6.5 g, 27.85 mmol, 1.00 equiv) and potassium fluoride dihydrate (6.6 g, 2.50 equiv) in methanol (50 mL). The resulting solution was stirred for 4 h at 50° C. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 100 mL of ethyl acetate. The resulting mixture was washed with 2×50 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5). This resulted in 3.5 g (78%) of 2-(4-methylpyridin-2-yl)but-3-yn-2-ol as a pink solid.

reactant | 2-bromo-4-methylpyridine | 49.41 mmol, 8.5 g, 1.00 equiv | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | n-BuLi | 22 mL, 1.20 equiv | [Li]CCCC
reactant | 4-(trimethylsilyl)but-3-yn-2-one | 54.19 mmol, 7.6 g, 1.10 equiv | C[Si](C#CC(C)=O)(C)C | C7H12OSi
reactant | 2-(4-methylpyridin-2-yl)-4-(trimethylsilyl)but-3-yn-2-ol | 27.85 mmol, 6.5 g, 1.00 equiv | CC1=CC(=NC=C1)C(C)(C#C[Si](C)(C)C)O | C13H19NOSi
reactant | potassium fluoride dihydrate | 6.6 g, 2.50 equiv | O.O.[F-].[K+]
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | (±)-2-(4-methylpyridin-2-yl)but-3-yn-2-ol | CC1=CC(=NC=C1)C(C)(C#C)O | C10H11NO
